US09102591B2
N-[2-(4-Chloro-phenyl)-4-dimethylamino-butyl]-2-methyl-benzamide
From 2-methylbenzoic acid and 3-(4-chloro-phenyl)-N1,N1-dimethyl-butane-1,4-diamine. LCMS (MH+): m/z=345.1, tR (minutes, Method A)=0.8

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 3-(4-chloro-phenyl)-N1,N1-dimethyl-butane-1,4-diamine | ClC1=CC=C(C=C1)C(CCN(C)C)CN | C12H19ClN2
product | N-[2-(4-Chloro-phenyl)-4-dimethylamino-butyl]-2-methyl-benzamide | ClC1=CC=C(C=C1)C(CNC(C1=C(C=CC=C1)C)=O)CCN(C)C | C20H25ClN2O
